US04618677
The procedure described in Example 2 was followed, using 1.3 g of 3-methoxyphenyl isocyanate, 3.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.9 g of triethylamine and 50 ml of methylene chloride, to give 1.35 g (32% of theory) of N-(3-methoxyphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as an off-white crystalline solid, M.p. 238°-240° C.

reactant | 3-methoxyphenyl isocyanate | 1.3 g | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 3.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3-methoxyphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.35 g, 32% | Cl.Cl.COC=1C=C(C=CC1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C22H30ClN3O2S.2ClH/c1-28-21-5-2-4-20(16-21)24-22(27)29-15-3-10-25-11-13-26(14-12-25)17-18-6-8-19(23)9-7-18;;/h2,4-9,16,24,27,29H,3,10-15,17H2,1H3;2*1H
